US07700634B2
1-(Cyclohexyl)methyl-7-methoxy-3-{5-[(pyrrolidin-1-yl)methyl]-[1,3,4]-thiadiazol-2-yl}-1H-indole, hydrochloride salt
To a solution of 3-(5-chloromethyl-[1,3,4]thiadiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole (93 mg, 0.25 mmol) in tetrahydrofuran was added pyrrolidine (0.101 ml, 1.235 mmol) and the mixture subjected to microwave irradiation at 150° C. for 5 minutes. The resulting reaction mixture was purified by flash column chromatography to give the title compound (42 mg, 0.1 mmol) as the free base. The free base was dissolved in dichloromethane and hydrogen chloride (1M solution in diethyl ether; 1 ml, 1 mmol) was added. The excess reagent and solvent were removed in vacuo to afford the title compound as a 1:1 hydrochloride salt.

reactant | 3-(5-chloromethyl-[1,3,4]thiadiazol-2-yl)-1-cyclohexylmethyl-7-methoxy-1H-indole | 0.25 mmol, 93 mg | ClCC1=NN=C(S1)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C19H22ClN3OS
reactant | pyrrolidine | 1.235 mmol, 0.101 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(Cyclohexyl)methyl-7-methoxy-3-{5-[(pyrrolidin-1-yl)methyl]-[1,3,4]-thiadiazol-2-yl}-1H-indole, hydrochloride salt | 0.1 mmol, 42 mg | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C=1SC(=NN1)CN1CCCC1 | InChI=1S/C23H30N4OS.ClH/c1-28-20-11-7-10-18-19(15-27(22(18)20)14-17-8-3-2-4-9-17)23-25-24-21(29-23)16-26-12-5-6-13-26;/h7,10-11,15,17H,2-6,8-9,12-14,16H2,1H3;1H
